US09102692B2
N,N-diisopropylethyl amine (0.42 ml, 2.4 mmol), ethyl propionate (0.12 ml, 1.2 mmol), and tetrakis(triphenylphosphine)palladium (46 mg, 0.04 mmol) were added to an anhydrous tetrahydrofuran (THF) solution (3.2 ml) containing N-(4-bromo-2-iodo-5-trifluoromethyl-phenyl)-4-methyl-benzenesulfonamide (208 mg, 0.4 mmol) and zinc bromide (270 mg, 1.2 mmol). Then, the mixture was evacuated, and backfilled with argon. This was stirred at 80° C. for 13 hours. After cooling it to room temperature, the reaction mixture was filtered through Celite, and washed with ethyl acetate. The wash solution was washed with an aqueous solution saturated with sodium bicarbonate and an aqueous solution saturated with sodium chloride, and dried over anhydrous sodium sulfate. The desiccant was removed by filtration, and concentration was performed. Then, the residue obtained by concentration under reduced pressure was purified by silica gel column chromatography. Thus, 5-bromo-1-(toluene-4-sulfonyl)-6-trifluoromethyl-1H-indole-2-carboxylic acid ethyl ester was obtained as a pale brown solid (195 mg, 50%).

reactant | N,N-diisopropylethyl amine | 2.4 mmol, 0.42 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl propionate | 1.2 mmol, 0.12 ml | C(CC)(=O)OCC | C5H10O2
reactant | N-(4-bromo-2-iodo-5-trifluoromethyl-phenyl)-4-methyl-benzenesulfonamide | 0.4 mmol, 208 mg | BrC1=CC(=C(C=C1C(F)(F)F)NS(=O)(=O)C1=CC=C(C=C1)C)I | C14H10BrF3INO2S
catalyst | tetrakis(triphenylphosphine)palladium | 0.04 mmol, 46 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc bromide | 1.2 mmol, 270 mg | [Br-].[Zn+2].[Br-]
solvent | tetrahydrofuran | 3.2 ml | O1CCCC1 | C4H8O
product | 5-bromo-1-(toluene-4-sulfonyl)-6-trifluoromethyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC(=C(C=C2C1)Br)C(F)(F)F)S(=O)(=O)C1=CC=C(C=C1)C | C19H15BrF3NO4S
